US06964975B2
Methyl 3-oxobutanoate (29.4 g) was dissolved in methanol (30.0 ml), and a 40%-methylamine-methanol solution (32.0 ml) was added dropwise at room temperature. The mixture was stirred for 1 hour. After the completion of the reaction, the reaction solution as such was concentrated, and then dried using a vacuum pump. Thus, methyl 3-(methylamino)-2-butenoate (31.8 g, yield 97%) was obtained. Subsequently, methyl 3-(methylamino)-2-butenoate (5.38 g) was dissolved in tetrahydrofuran (100 ml), and pyridine (5.0 ml) was added dropwise at room temperature. Under ice cooling, p-chloromethyl benzoyl chloride (8.0 g) was added dropwise and the mixture was stirred at room temperature for 4 hours. After the completion of the reaction, distilled water was added, and the product was extracted by liquid separation using ether and then washed with saturated aqueous solution of sodium chloride. The product was dried over sodium sulfate to concentrate and the residue was dried using a vacuum pump. Subsequently, the residue was dissolved in acetic acid (30.0 ml). Hydroxylamine hydrochloride (2.8 g) was added at room temperature, and the mixture was heated under reflux for 1 hour and 30 minutes. After the completion of the reaction, saturated aqueous solution of sodium hydrogencarbonate was added to neutralize the reaction system, and the product was extracted by liquid separation using ether. The resultant organic layer was washed with saturated solution of sodium chloride and dried over sodium sulfate to concentrate. The residue was purified through a column using a hexane-acetone elution system. Thus, methyl 5-[4-(chloromethyl)phenyl]-3-methyl-4-isoxazole carboxylate (5.42 g, yield 49.0%) was obtained.

reactant | methyl 3-(methylamino)-2-butenoate | 5.38 g | CNC(=CC(=O)OC)C | C6H11NO2
reactant | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
reactant | p-chloromethyl benzoyl chloride | 8.0 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 5-[4-(chloromethyl)phenyl]-3-methyl-4-isoxazole carboxylate | 5.42 g, yield 49.0% | ClCC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)OC | C13H12ClNO3
